US06576643B2
d) (±)-10,11-Dihydro-2-methyl-3-[3-(pyridin-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetic Acid
According to the procedure of Example 6 (c), except substituting ethyl (±)-10,11-dihydro-2-methyl-3-[3-(pyridin-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetate for the ethyl (R)-10,11-dihydro-3-[3-(pyridin-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetate, the title compound was obtained as an off white solid. 1H NMR (400 MHz, CDCl3) δ7.75 (d, 1 H), 7.65 (t, 1 H), 7.15 (m, 3 H), 7.05 (m, 1 H), 6.83 (s, 1 H), 6.7 (d, 1 H), 6.65 (m, 1 H), 6.60 (s,1 H), 4.25 (d, J=15.1 Hz, 1 H), 4.05 (t, 2 H), 3.80 (m, 1 H), 3.75 (d, J=15.1 Hz, 1 H), 3.50 (t, 2 H), 3.25 (dd, 1 H), 2.85 (dd, 1 H), 2.68 (dd, 1 H), 2.60 (dd, 1 H), 2.15 (t, 2 H), 2.10 (s, 3 H); MS (ES) m/e 417.3 (M+H)+.

reactant | ethyl (±)-10,11-dihydro-2-methyl-3-[3-(pyridin-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetate | CC1=CC2=C(CC3=C(C(C2)CC(=O)OCC)C=CC=C3)C=C1OCCCNC1=NC=CC=C1 | C28H32N2O3
reactant | ethyl (R)-10,11-dihydro-3-[3-(pyridin-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetate | N1=C(C=CC=C1)NCCCOC=1C=CC2=C(CC3=C([C@H](C2)CC(=O)OCC)C=CC=C3)C1 | C27H30N2O3
product | (±)-10,11-Dihydro-2-methyl-3-[3-(pyridin-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetic Acid | CC1=CC2=C(CC3=C(C(C2)CC(=O)O)C=CC=C3)C=C1OCCCNC1=NC=CC=C1 | C26H28N2O3
